US04908372
With stirring, trifluoroacetic acid (10 ml) was added to 4-[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2yl]carbonyl-1-piperidinecarboxylic acid, 1,1-dimethylethyl ester (1.65 g, 3.77×10-3 mole). After 30 minutes the reaction was cooled in an ice bath and ether (150 ml) was added. The flask was stoppered and placed in the refrigerator. After several hours, the solid was collected by filtration, washed with EtzO, and dried by suction. Crystallization from ethanol/ether afforded [1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]-4-piperidinylmethanone, mono (trifluoroacetate) as colorless needles: 1.45 g (84%), m.p. 213°-215° C. (decomp).

reactant | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 4-[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2yl]carbonyl-1-piperidinecarboxylic acid, 1,1-dimethylethyl ester | 3.77×10-3 mole, 1.65 g | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)C(=O)C2CCN(CC2)C(=O)OC(C)(C)C | C25H28FN3O3
solvent | ether | 150 ml | CCOCC | C4H10O
product | [1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]-4-piperidinylmethanone | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)C(=O)C2CCNCC2 | C20H20FN3O
